US04105681
3-chloro-2,4,6-trimethyl-benzyl-triphenyl-phosphonium chloride is condensed with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester to produce 9-(3-chloro-2,4,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester, m.p.: 84°-85° C.

reactant | 3-chloro-2,4,6-trimethyl-benzyl-triphenyl-phosphonium chloride | [Cl-].ClC=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC1C)C)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
product | 9-(3-chloro-2,4,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)C)Cl)C)C)C)=O | C22H27ClO2
